Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 06:40AM BLOOD WBC-6.0 RBC-3.21* Hgb-10.8* Hct-33.4* 
MCV-104* MCH-33.6* MCHC-32.3 RDW-15.4 RDWSD-58.4* Plt ___
___ 06:40AM BLOOD ___ PTT-31.6 ___
___ 06:40AM BLOOD Glucose-78 UreaN-12 Creat-0.5 Na-142 
K-4.5 Cl-101 HCO3-28 AnGap-13
___ 08:00PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD proBNP-378
___ 08:00PM BLOOD Calcium-8.9 Phos-3.2 Mg-1.7
___ 06:40AM BLOOD TSH-2.3
___ 06:40AM BLOOD T4-8.2 Free T4-1.4

ECHO
IMPRESSION: Suboptimal image quality. There is no evidence for a 
right-to-left shunt with
agitated saline at rest, though there was a lot of patient 
movement during the study and therefore
images are suboptimal and not definitive. Mild symmetric left 
ventricular hypertrophy with normal
cavity size and regional/global biventricular systolic function. 
Mild resting mid-cavitary LV
gradient. No valvular pathology or pathologic flow identified. 
Normal pulmonary artery systolic
pressure.

CTA CHEST:
IMPRESSION: 
  
  
1. No evidence of pulmonary embolism. 
2. Multiple, bilateral pulmonary nodules, measuring up to 2 mm, 
for which no 
dedicated CT follow-up is recommended in a low risk patient, and 
an optional 
CT follow-up in 12 months is recommended in a high risk patient. 

3. No substantial change in a intrathoracic multinodular thyroid 
goiter, with 
rightward tracheal deviation. 
  
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules 
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an 
optional CT follow-up in 12 months is recommended in a high-risk 
patient. 

 
Brief Hospital Course:
___ is a ___ female ___ female with history of 
thyroid goiter, pancreatic insufficiency, GERD, frequent UTIs 
who presents from outside hospital with concerns for hypoxia and 
neck mass

# Hypoxia
# Neck mass/Goiter
# Asthma
# Lung nodules
Hypoxia resolved.  This occurred incidentally at ___ ___.  
She had no symptoms other than recent cough.  She has h/o 
asthma/COPD.  CTA chest noted atelectasis.  ENT evaluated 
patient's known goiter and didnot think it was contributing to 
her hypoxia.  TFTs wnl.  It was possible she is having 
intermittent symptoms, or this was a transient finding related 
to recent URI, asthma, and atelectasis.  Echo re-assuring (see 
above).  This was likely due to atelectasis vs recent URI with 
asthma and resolved.  Goiter is not playing a role.
- cont nebs, home inhaler at home
- IS
- daily 02 sat
- PCP and ENT follow up as specified in DC paperwork
- Patient informed of lung nodules and need for repeat CT scan 
in 12 months, she expressed understanding

GERD:
cont PPI.  will increase to BID given laryngeal reflux noted

Anxiety: clonazepam home regimen

Neuropathy:
Gabapentin

Pancreatic insuff:
Creon

Thrombocytosis:
ET.  cont hydroxyurea

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
3. ClonazePAM 0.5 mg PO QHS:PRN insomnia anxiety 
4. Gabapentin 100 mg PO QHS 
5. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN sob 
6. Creon 12 2 CAP PO TID W/MEALS 
7. Metoprolol Tartrate 25 mg PO DAILY 
8. Montelukast 10 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Hydroxyurea 500 mg PO EVERY OTHER DAY 
12. Hydroxyurea 1000 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB  
3.  Aspirin 81 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO QHS:PRN insomnia anxiety  
5.  Creon 12 2 CAP PO TID W/MEALS  
6.  Gabapentin 100 mg PO QHS  
7.  Hydroxyurea 500 mg PO EVERY OTHER DAY  
8.  Hydroxyurea 1000 mg PO EVERY OTHER DAY  
9.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN sob  
10.  Metoprolol Tartrate 25 mg PO DAILY  
11.  Montelukast 10 mg PO DAILY  
12.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoxia
Atelectasis
Goiter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of low oxygen levels.  You were 
found to have normal oxygen on the floor.  This was likely 
related to your asthma and lung collapse "atelectasis."  Please 
focus on deep breathing at home, resume your inhalers, and see 
your PCP ___ 1 week.

We also recommend that you follow up with ENT doctors regarding 
your known thyroid goiter.
 
Followup Instructions:
___